US09085540B2
To a mixture of 1,9-diazaspiro[5.5]undecane dihydrochloride (640 mg), potassium carbonate (1.26 g), and N,N-dimethylformamide (7 mL) was added 1-fluoro-4-nitrobenzene (426 mg), followed by stirring at 60° C. overnight. To the reaction mixture was added water, and the precipitated solid was collected by filtration and then dried under reduced pressure to obtain 9-(4-nitrophenyl)-1,9-diazaspiro[5.5]undecane (0.69 g) as a yellow solid.

reactant | 1,9-diazaspiro[5.5]undecane dihydrochloride | 640 mg | Cl.Cl.N1CCCCC12CCNCC2
reactant | potassium carbonate | 1.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
reactant | 1-fluoro-4-nitrobenzene | 426 mg | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | water | O | H2O
product | 9-(4-nitrophenyl)-1,9-diazaspiro[5.5]undecane | 0.69 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC2(CCCCN2)CC1 | C15H21N3O2
